Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
possible rectal perforation
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is an ___ with h/o CAD, COPD on home O2, UC on 
mesalamine, CKD, s/p screening EGD and colonoscopy c/b rectal 
perforation with contained RP air on imaging admitted for 
observation. Patient underwent routine screening colonoscopy 
yesterday that was difficult to perform to per colonoscopy 
report due to rectosiogmoid narrowing at 20cm with evidence of 
mucosal injury on imaging. He reportedly developed chills 
following colonoscopy and there was concern for colonic 
perforation given difficult exam, thus he reported to the ED 
where CT imaging demonstrated a notable amount of contained 
retroperitoneal air concerning for rectal perforation. Patient 
was subsequently admitted to ACS and Colorectal Surgery is now 
consulted for evaluation of potential surgical intervention in 
the setting of active colitis. Patient has continued to remain 
afebrile and hemodynamically stable throughout hospitalization 
without leukocytosis or lactic acidosis. He reports loose bowel 
movements and denies any abdominal pain or back pain, bloody or 
melenic stools, fevers/chills, CP/SOB, N/V.

 
Past Medical History:
PMHx: CAD, COPD on home O2 @ night, UC on mesalamine, CKD, HTN,
HLD, GERD, hx of CHF (but not on diuretics, last TTE seen in
chart ___ w/ normal LV EF ~55%)

PSHx: none
 
Social History:
___
Family History:
n/c
 
Physical Exam:
VS: VSS
GEN: WD, WN in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
PULM:  normal excursion, no respiratory distress
ABD: soft, NT, ND, no rebound or guarding
EXT: WWP, no CCE, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
 
Pertinent Results:
See OMR for all lab and imaging results.
 
Brief Hospital Course:
Mr. ___ was admitted to the Colorectal Surgical Service from 
the ED at ___ for close observation and conservative 
management given concern for rectal perforation. During his 
stay, patient remained afebrile and hemodynamically stable 
without leukocytosis, lactic acidosis or evidence of peritonitis 
on abdominal exam and he continued to deny abdominal or back 
pain throughout admission.

Pt was maintained on NPO/IVF. He started on a 7-day course of 
antibiotics - IV cipro/flagyl which was transitioned to PO at 
time of discharge (end ___. Gastrografin enema was performed 
on ___ that showed no extraluminal contrast that would 
suggest leak.

On ___, the patient was discharged to home. At discharge, he 
was tolerating a regular diet, passing flatus, and ambulating 
independently. He will be discharged with a foley and plans to 
undergo a voiding trial with his urologist Dr. ___ week. He 
will also follow up with his GI Dr. ___ future 
mesalamine use. Last, he will follow-up in the ___ clinic in ___ 
weeks and with his PCP.  This information was communicated to 
the patient and his family directly prior to discharge.

 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
umeclidinium-vilanterol (ANORO ELLIPTA) 62.5-25 mcg/actuation
Disk with Device, Inhale 1 puff daily
ipratropium-albuterol (DUO-NEB) 0.5 mg-3 mg(2.5 mg base)/3 mL
Solution for Nebulization
Use 3 mL in nebulizer every 4 hours as needed
ATENOLOL - atenolol 100 mg tablet. 1 tablet(s) by mouth once a
day -  (Prescribed by Other Provider)
ENALAPRIL MALEATE - enalapril maleate 20 mg tablet. 1 tablet(s)
by mouth once a day -  (Prescribed by Other Provider)
FOLIC ACID - folic acid 1 mg tablet. 1 tablet(s) by mouth once a
day -  (Prescribed by Other Provider)
MESALAMINE - mesalamine 800 mg tablet,delayed release. 2
tablet(s) by mouth three times a day -  (Prescribed by Other
Provider)
MESALAMINE [CANASA] - Canasa 1,000 mg rectal suppository. 1
suppository(s) rectally once a day -  (Prescribed by Other
Provider)
NITROGLYCERIN - nitroglycerin 0.4 mg sublingual tablet. 1
tablet(s) sublingually  as needed -  (Prescribed by Other
Provider)
NITROGLYCERIN - nitroglycerin 0.2 mg/hr transdermal 24 hour
patch. q 24 hrs  -  (Prescribed by Other Provider)
OMEPRAZOLE - omeprazole 20 mg capsule,delayed release. 1
capsule(s) by mouth twice a day before meals -  (Prescribed by
Other Provider)
OXYGEN - Dosage uncertain -  (Prescribed by Other Provider)
SIMVASTATIN - simvastatin 20 mg tablet. 1 tablet(s) by mouth 
once
a day -  (Prescribed by Other Provider)
TERAZOSIN - terazosin 5 mg capsule. 1 capsule(s) by mouth at
bedtime -  (Prescribed by Other Provider)
 
Medications - OTC
ASPIRIN [ADULT LOW DOSE ASPIRIN] - Adult Low Dose Aspirin 81 mg
tablet,delayed release. 1 tablet(s) by mouth once a day - 
(Prescribed by Other Provider)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
1,000
unit capsule. ___ capsule(s) by mouth once a day -  (Prescribed
by Other Provider)
MULTIVITAMIN [DAILY MULTIPLE] - Daily Multiple tablet. 1
tablet(s) by mouth once a day -  (Prescribed by Other Provider)

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl [Cipro] 500 mg 1 tablet(s) by mouth every 
12 hours Disp #*5 Tablet Refills:*0 
3.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*8 Tablet Refills:*0 
4.  Atenolol 100 mg PO DAILY  
5.  Enalapril Maleate 20 mg PO DAILY  
6.  Mesalamine ___ 1600 mg PO TID  
7.  Terazosin 5 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Possible rectal perforation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted for concern for rectal perforation. 
Gastrograffin enema was done and no contrast leak was seen. You 
were monitored closely and there was no sign of continued 
perforation. You were given IV fluids to maintain your volume 
and initially on no foods or liquids by mouth until you were 
deemed safe to do so. You were started on 2 antibiotics 
(ciprofloxacin, metronidazole) on ___ and you will be prescribed 
a full 7-day course that will end ___ (last dose on ___. 
Please follow up with your PCP and the ___ Clinic within 
the next ___ weeks. You will need to restart several home 
medications that were held while you were in the hospital. 
Please also follow up with your urologist Dr. ___ to remove the 
foley after undergoing a voiding trial. Finally, follow up with 
your GI doctor Dr. ___ this admission and the need to 
continue mesalamine.

 
Followup Instructions:
___